US08017605B2
Step A: 1,3-difluoro-5-methylbenzene
A mixture of 1-(bromomethyl)-3,5-difluorobenzene (50 g, 0.24 mol), 10% Pd/C (3 g) and sodium acetate (140 g, 1.7 mol) in anhydrous ether (250 mL) was stirred under hydrogen at atmospheric pressure for 24 hr. The mixture was filtered and the filtrate was dried over anhydrous Na2SO4, filtered and used directly in the next step. 1H-NMR (500 MHz, CDCl3): δ 6.56 (d, 2H, J=6.0 Hz), 6.47 (t, 1H, J=9.0 Hz), 2.22 (s, 3H).

reactant | 1-(bromomethyl)-3,5-difluorobenzene | 0.24 mol, 50 g | BrCC1=CC(=CC(=C1)F)F | C7H5BrF2
reactant | sodium acetate | 1.7 mol, 140 g | C(C)(=O)[O-].[Na+]
solvent | ether | 250 mL | CCOCC | C4H10O
catalyst | Pd/C | 3 g | [Pd] | Pd
product | 1,3-difluoro-5-methylbenzene | FC1=CC(=CC(=C1)C)F | C7H6F2
